US06278013B1
Ethyl 8-cyano-1-cyclopropyl-7-[(1S,6S)-2,8-diazabicyclo[4.3.0]nonan-8-yl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate
14.32 g (45 mmol) of ethyl 8-cyano-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 6.31 g (50 mmol) of (1S,6S)-2,8-diazabicyclo[4.3.0]nonane and 10.22 g (101 mmol) of triethylamine are boiled under reflux in 270 ml of acetonitrile for 4 hours. The reaction mixture is left to stand at room temperature for some hours and the solid which has crystallized out is filtered off with suction, rinsed with acetonitrile and dried. 15.6 g of a beige solid are obtained (82% of theory).

reactant | ethyl 8-cyano-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 45 mmol, 14.32 g | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)F)F | C16H12F2N2O3
reactant | (1S,6S)-2,8-diazabicyclo[4.3.0]nonane | 50 mmol, 6.31 g | [C@@H]12NCCC[C@H]2CNC1 | C7H14N2
reactant | triethylamine | 101 mmol, 10.22 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 270 ml | C(C)#N | C2H3N
product | Ethyl 8-cyano-1-cyclopropyl-7-[(1S,6S)-2,8-diazabicyclo[4.3.0]nonan-8-yl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 15.6 g | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)F)N1C[C@@H]2CCCN[C@@H]2C1 | C23H25FN4O3
